US20010027200A1
4-Fluoro-nitrobenzene (5.0 g) and 3-chloro-5-hydroxypyridine (4.59 g) were combined at 60C using a method similar to that of Example 21.2 to provide 7.78 g of 4-(3-chloro-5-pyridyloxy)nitrobenzene. mp 80-82° C.

reactant | 4-Fluoro-nitrobenzene | 5.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3-chloro-5-hydroxypyridine | 4.59 g | ClC=1C=NC=C(C1)O | C5H4ClNO
product | 4-(3-chloro-5-pyridyloxy)nitrobenzene | 7.78 g | ClC=1C=NC=C(C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H7ClN2O3
